US05654307
A solution of 4-(3-bromoanilino)-7-fluoropyrido[2,3-d]pyrimidine (0.20 g, 0.63 mmol) in EtOH (20 mL) is saturated with ammonia and warmed at 100° C. in a pressure vessel for 30 h. The solvent is removed under reduced pressure to give 7-amino-4-(3-bromoanilino)pyrido[2,3-d]pyrimidine (0.18 g, 90%). 1H NMR (DMSO) δ 9.97 (1H, brs), 8.59 (1H, s), 8.51 (1H, d, J=9.3 Hz), 8.11 (1H, s, brs), 7.77 (1H, brd, J=6.3 Hz), 7.44 (2H, brs), 7.37-7.30 (2H, m), 6.81 (1H, d, J=9.3 Hz).

reactant | 4-(3-bromoanilino)-7-fluoropyrido[2,3-d]pyrimidine | 0.63 mmol, 0.20 g | BrC=1C=C(NC=2C3=C(N=CN2)N=C(C=C3)F)C=CC1 | C13H8BrFN4
reactant | ammonia | N | H3N
solvent | EtOH | 20 mL | CCO | C2H6O
product | 7-amino-4-(3-bromoanilino)pyrido[2,3-d]pyrimidine | 0.18 g, 90% | NC=1C=CC2=C(N=CN=C2NC2=CC(=CC=C2)Br)N1 | C13H10BrN5
